US07858796B2
(176) 3-(1-{[3-(ethyloxy)propyl]sulfonyl}-4-piperidinyl)-5-phenyl-1H-indole-7-carboxamide
The mixture of 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide (23 mg, 0.050 mmol), NaOEt (10 mg) in ethanol (1 mL) was refluxed at 80° C. overnight. The reaction mixture was concentrated and purified by reverse phase HPLC (water/CH3CN, 0.1% TFA 10-90%) to give the title compound (15.0 mg, 64%).

reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 0.050 mmol, 23 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C23H26ClN3O3S
reactant | NaOEt | 10 mg | CC[O-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-(1-{[3-(ethyloxy)propyl]sulfonyl}-4-piperidinyl)-5-phenyl-1H-indole-7-carboxamide | 15.0 mg, 64% | C(C)OCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C25H31N3O4S
